US04784791
200 ml of a THF solution of 32 g of methyl 4'-nonylbiphenylcarboxylate was slowly dropped to 300 ml of a THF solution of 3.5 g of lithium aluminum hydride while cooling with ice. After the completion of dropwise addition, the resulting mixture was stirred at room temperature for 2 hours. The reaction mixture was again cooled with ice, and 20 ml of ethyl acetate was slowly dropped thereto. Subsequently, 50 ml of water and 100 ml of 6 N hydrochloric acid were slowly dropped thereto. 300 ml of toluene was added thereto. An organic layer was washed with saturated saline water, with 6 N hydrochloric acid, with saturated saline water, with a 2 N sodium hydroxide aqueous solution and further with saturated saline water to make it neutral. The organic layer was dried over anhydrous magnesium sulfate, concentrated and then recrystallized from 200 ml of ethanol to obtain 28 g of 4'-nonyl-4-hydroxymethyl-biphenyl having a melting point of 101 to 102° C. Analysis of the above compound by HPLC showed that the purity was 99.9%. The total of the compound and 30 g of thionyl chloride were mixed and allowed to stand overnight. Then, the mixture was heated for 30 minutes on a water bath maintained at 70° C. and then allowed to cool. The mixture was poured into ice water and extracted with 300 ml of toluene. The extract thus obtained was washed with saturated saline water, with a saturated sodium hydrogencarbonate aqueous solution and further with saturated saline water, made neutral, dried over anhydrous magnesium sulfate, concentrated, and recrystallized from 300 ml of ethanol to obtain 25 g of 4'-nonyl-4-chloromethyl-biphenyl, having a melting point of 68.0 to 68.4° C. Analysis of the compound by HPLC showed that the purity was 99.8%.

reactant | THF | 200 ml | C1CCOC1 | C4H8O
reactant | methyl 4'-nonylbiphenylcarboxylate | 32 g | C(CCCCCCCC)C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC | C23H30O2
reactant | THF | 300 ml | C1CCOC1 | C4H8O
reactant | lithium aluminum hydride | 3.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | 6 N, 100 ml | Cl | ClH
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 ml | O | H2O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 4'-nonyl-4-hydroxymethyl-biphenyl | 28 g | C(CCCCCCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)CO | C22H30O
